US08202873B2
(1,3,5-Triethyl-1H-pyrazol-4-yl)-acetaldehyde
Cool a solution of (1,3,5-triethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester (0.92 g, 3.86 mmol) in tetrahydrofuran (50 mL) to −78° C. and add diisobutylaluminum hydride (16.2 mL, 16.2 mmol, 1 M in toluene) dropwise. Stir the resulting mixture for 5 hr. at −78° C. Quench the reaction mixture with saturated aqueous potassium sodium tartrate solution (30 mL) and ethyl acetate (100 mL) and stir at room temperature for 16 hr. Separate the organic layer; dry (sodium sulfate), filter and concentrate to give the title preparation as an oil (0.65 g, 87%). 1H-NMR (400 MHz, CDCl3) δ 9.57 (t, 1H), 4.01 (q, 2H), 3.38 (d, 2H), 2.57 (q, 4H), 1.39 (t, 3H), 1.20 (t, 3H), 1.15 (t, 3H).

reactant | (1,3,5-triethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 3.86 mmol, 0.92 g | C(C)OC(CC=1C(=NN(C1CC)CC)CC)=O | C13H22N2O2
reactant | diisobutylaluminum hydride | 16.2 mmol, 1 M, 16.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1,3,5-Triethyl-1H-pyrazol-4-yl)-acetaldehyde | C(C)N1N=C(C(=C1CC)CC=O)CC | C11H18N2O
